US07465731B2
To the solution of (2E)-3-(5-{[(3R)-1-(2-phenylethyl)-3-piperidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (3.2 g, 7.1 mmol) in EtOH (16 ml) was added 2M ethanlic hydrogen chloride (17.5 mL) and the mixture was stirred at ambient temperature for 3 hrs. To the reaction mixture was added IPE and isolated precipitate was collected by filtration to give (2E)-N-hydroxy-3-(5-{[(3R)-1-(2-phenylethyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylamide dihydrochloride (2.3 g, 74%) as an amorphous powder.

reactant | (2E)-3-(5-{[(3R)-1-(2-phenylethyl)-3-piperidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 7.1 mmol, 3.2 g | C1(=CC=CC=C1)CCN1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C25H33N5O3
reactant | hydrogen chloride | 2M, 17.5 mL | Cl | ClH
solvent | EtOH | 16 ml | CCO | C2H6O
product | (2E)-N-hydroxy-3-(5-{[(3R)-1-(2-phenylethyl)-3-piperidinyl]amino}-2-pyrazinyl)acrylamide dihydrochloride | 2.3 g, 74% | Cl.Cl.ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CCC1)CCC1=CC=CC=C1)=O | InChI=1S/C20H25N5O2.2ClH/c26-20(24-27)9-8-17-13-22-19(14-21-17)23-18-7-4-11-25(15-18)12-10-16-5-2-1-3-6-16;;/h1-3,5-6,8-9,13-14,18,27H,4,7,10-12,15H2,(H,22,23)(H,24,26);2*1H/b9-8+;;/t18-;;/m1../s1
